US07238724B2
(2S,5R)-1-(N-cyclopentylglycyl)-5-prop-1-ynylpyrrolidine-2-carbonitrile
To a stirred solution of (2S,5R)-1-(chloroacetyl)-5-propynylpyrrolidine-2-carbonitrile (0.018 g, 0.086 mmol ) in acetonitrile (1 mL) at room temperature was added cyclopentyl amine (0.017 mL, 0.17 mmol). The reaction mixture was stirred at room temperature for 18 hours, concentrated under reduced pressure and purified by flash chromatography with 3% methanol/97% dichloromethane to provide the titled compound. MS (ESI) m/z 260 (M+H)+; 1H NMR (DMSO) δ ppm 4.89 (m, 1H), 4.84 (m, 1H), 4.07-4.13 (m, 2H), 3.52 (m, 1H), 2.05-2.42 (m, 4H), 1.96 (m, 2H), 1.87 (d, 3H), 1.70 (m, 4H), 1.52 (m, 2H).

reactant | (2S,5R)-1-(chloroacetyl)-5-propynylpyrrolidine-2-carbonitrile | 0.086 mmol, 0.018 g | ClCC(=O)N1[C@@H](CC[C@@H]1C#CC)C#N | C10H11ClN2O
reactant | cyclopentyl amine | 0.17 mmol, 0.017 mL | C1(CCCC1)N | C5H11N
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | (2S,5R)-1-(N-cyclopentylglycyl)-5-prop-1-ynylpyrrolidine-2-carbonitrile | C1(CCCC1)NCC(=O)N1[C@@H](CC[C@@H]1C#CC)C#N | C15H21N3O
